US05206257
A solution of N-bromosuccinimide (0.63 g, 0.0036 mol) in dimethylformamide (dried over 4Å molecular sieve, 18 ml was added dropwise with stirring to a solution of 2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole (1.0 g, 0.0036 mol) in dimethylformamide (dried over 4Å molecular sieve, 18 ml) and stirred for 7 hours. The mixture was poured into water (180 ml) and extracted with dichloromethane (5×30 ml). The combined extracts were washed with water (3×50 ml), dried over anhydrous sodium sulphate and evaporated to dryness. The residue was purified by mplc on silica eluted with a mixture of ethyl acetate and petroleum spirit (bp 60°-80° C.) (3:5) to give 4-bromo-2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole (0.17 g), m.p. 224°-225° C., as an off-white solid.

reactant | N-bromosuccinimide | 0.0036 mol, 0.63 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole | 0.0036 mol, 1.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC=CN1 | C10H5Cl2F3N2
reactant | water | 180 ml | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 4-bromo-2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole | 0.17 g | BrC=1N=C(NC1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C10H4BrCl2F3N2
